US07435837B2
Treatment of (±)-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.03 g, 5.09 mmol) with sodium azide (1.32 g, 20.38 mmol) generally according to the procedure described for Intermediate 98 provided (±)-2-(azidomethyl)-4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.137 g, 10 wt. %) generally according to the procedure described for Example 1 gave 0.610 g (43%) of (±)-1-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine as a white solid, hydrochloride salt. mp 254-257° C.; Anal. calcd. for C15H14FNOHCl: C, 64.4; H, 5.40; N, 5.01. Found: C, 64.98; H, 5.48; N, 4.79.

reactant | (±)-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 5.09 mmol, 2.03 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2C2=CC=CC=C2)F | C22H19FO4S
reactant | sodium azide | 20.38 mmol, 1.32 g | [N-]=[N+]=[N-].[Na+]
reactant | (±)-2-(azidomethyl)-4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C(=CC=C2C2=CC=CC=C2)F | C15H12FN3O
reactant | azide | [N-]=[N+]=[N-]
catalyst | palladium on carbon | 0.137 g | [Pd] | Pd
product | (±)-1-(4-fluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 0.610 g, 43% | FC1=CC=C(C2=C1CC(O2)CN)C2=CC=CC=C2 | C15H14FNO
